US06750371B2
N-(2-Oxoethyl)phthalimide
The preparation from N-(2-hydroxyethyl)phthalimide was carried out as in example 2; cooling was carried out by means of tap water. Yield: 74%, m.p. 114° C. (from methylene chloride).

reactant | N-(2-hydroxyethyl)phthalimide | OCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H9NO3
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(2-Oxoethyl)phthalimide | Yield: 74% | O=CCN1C(C=2C(C1=O)=CC=CC2)=O | C10H7NO3
